US06887863B2
1-bromoethylbenzene
To a solution of DL-sec-phenethyl alcohol (1.81 ml, 15 mmol) in chloroform (20 ml) was added phosphorus tribromide (15.75 ml, 15.75 mmol) dropwise at room temperature. The mixture was stirred at room temperature for 18 hours, poured into wet ice, washed with brine (4×), dried (MgSO4), then evaporated to dryness to yield 2.62 g of the title compound.

reactant | DL-sec-phenethyl alcohol | 15 mmol, 1.81 ml | CC(C1=CC=CC=C1)O | C8H10O
reactant | phosphorus tribromide | 15.75 mmol, 15.75 ml | P(Br)(Br)Br | Br3P
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-bromoethylbenzene | 2.62 g | BrC(C)C1=CC=CC=C1 | C8H9Br
